* NGSPICE file created from rev_not.ext - technology: sky130A

.subckt rev_not VDD VGND A Y
X0 VGND A Y VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X1 VDD A Y VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
C0 Y A 0.33474f
C1 VDD A 0.30605f
C2 Y VDD 0.34411f
C3 Y VGND 0.72996f
C4 VDD VGND 2.09727f
.ends

